Name:  ___.                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old female with PMH of hypothyroidism and mitral valve 
prolapse presenting with worsening abdominal pain.  She reports 
over the last ___ months she has been having diffuse abdominal 
pain worst in the epigastric region, the pain is intermittent 
and worsened with eating.  She denies any diarrhea, change in 
bowel movements.  She thinks a few weeks ago she had a small 
amount of bright red blood in the stool that she attributes to 
hemorrhoids but otherwise denies blood in stool or black stool.  
She had 1 episode of vomiting yesterday but otherwise denies 
vomiting.  She has been having some mild chills the last few 
days.  She has not told her doctors about the ___, the only 
medication she tried for it was Pepto-Bismol yesterday without 
relief.  She denies weight loss.  She denies recent changes in 
diet, raw or undercooked foods (she eats a low gluten and low 
dairy diet).  She traveled to ___ in ___ and ___ in 
___.  The pain was worse this morning and she came to the ED.  
In the ED she had a lowgrade fever to 99.7, labs were 
unremarkable, CT A/P showed non-specific transverse colitis and 
possible enteritis.  Surgery was consulted, she was given IV 
cipro, Flagyl, IV fluids, morphine, Tylenol, Ibuprofen and 
Zofran.

Currently she reports her pain is mild, ___.  Along with 
epigastric abdominal pain also having some burning sensation 
going to throat, says it feels like acid reflux.  She denies any 
nausea.  She reports her last BM was 2 days ago and was normal, 
solid brown stool.  She reports she had a colonoscopy ___ years 
ago that showed a few polyps but was otherwise unremarkable.  
She denies any CP, SOB, cough, dysuria, rash, joint pains.

ROS: as above, ten point ROS otherwise negative
 
Past Medical History:
Hypothyroidism
Mitral Valve prolapse
C-section x2
Endometrial ablation for heavy periods
 
Social History:
___
Family History:
Father had DM ___ and had diverticulitis, mother passed away from 
pancreatic cancer.  Denies any family history of IBD.
 
Physical Exam:
PE:
VS: 97.8 94/60 68 18 97 RA 
Gen: NAD, resting comfortably in bed
HEENT: EOMI, PERRLA, MMM, OP clear
CV: RRR nl s1s2 no m/r/g
Resp: CTAB no w/r/r
Abd: Soft, mild epigastric tenderness, ND +BS
Ext: no c/c/e
GU: no foley
Skin: warm, dry no rashes
Neuro: CN ___ intact, ___ strength throughout
Psych: pleasant, normal affect
 
Pertinent Results:
___ 05:12AM   LACTATE-0.8
___ 11:35PM URINE  RBC-<1 WBC-1 BACTERIA-FEW YEAST-NONE 
EPI-1 TRANS EPI-<1
___ 09:02PM   GLUCOSE-127* UREA N-22* CREAT-1.0 SODIUM-137 
POTASSIUM-3.7 CHLORIDE-99 TOTAL CO2-27 ANION GAP-15
___ 09:02PM   ALT(SGPT)-31 AST(SGOT)-21 ALK PHOS-73 TOT 
BILI-0.5
___ 09:02PM   LIPASE-29
___ 09:02PM   ALBUMIN-4.2
___ 09:02PM   WBC-7.7 RBC-4.73 HGB-13.9 HCT-42.7 MCV-90 
MCH-29.4 MCHC-32.6 RDW-13.1 RDWSD-43.3
___ 09:02PM   NEUTS-90.0* LYMPHS-5.2* MONOS-3.3* EOS-0.9* 
BASOS-0.3 IM ___ AbsNeut-6.93* AbsLymp-0.40* AbsMono-0.25 
AbsEos-0.07 AbsBaso-0.02

CT A/P ___:

IMPRESSION:    
1.  Bowel wall thickening and edema involves the mid to distal 
transverse 
colon and is associated with pericolonic stranding.  Findings 
are nonspecific and include infectious, inflammatory, and 
ischemic etiologies.  Minimally dilated and fluid filled loops 
of small bowel likely reflect reactive changes and/or enteritis. 

  
2.  Multiple hepatic hypodensities scattered throughout the 
liver measure up to 5.7 cm, likely hepatic cysts. 
  
3.  Sigmoid diverticular disease without evidence of 
diverticulitis. 

 
Brief Hospital Course:
___ year old female with PMH of hypothyroidism and mitral valve 
prolapse presenting with worsening abdominal pain.

#Abdominal pain
#Colitis, possible enteritis
#GERD
She is reporting 3 months of abdominal pain worse with eating.  
CT scan showing non-specific colitis and possible enteritis.  
She is not dehydrated, denies weight loss, diarrhea, significant 
blood in stool.  No concerning lab findings.  She was given 
cipro/flagyl in ED but given lack of diarrhea and infectious 
signs/symptoms unlikely to be a bacterial infection.  Given her 
chronic symptoms and abnormal CT findings she should have a GI 
evaluation and possible repeat colonoscopy but given her 
stability this can be pursued as an outpatient.  She wishes to 
go home with outpatient follow-up.  In addition to her abdominal 
pain also having symptoms consistent with GERD.
-D/c antibiotics as low suspicion for bacterial infection
-F/u with PCP, recommend referral to GI.  
-Starting ranitidine

#Hypothyroidism: Continue levothyroxine

#FEN/PPX: regular, ambulatory

Full code
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 100 mcg PO DAILY 

 
Discharge Medications:
1.  Ranitidine 150 mg PO DAILY 
RX *ranitidine HCl 150 mg 1 tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*0 
2.  Levothyroxine Sodium 100 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Non-specific colitis
GERD
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted with worsening abdominal pain.  You had a CT 
scan which showed inflammation in your colon. Your pain was 
stable and you were able to eat and drink.  We recommend 
following up with your PCP and following up with a 
gastroenterologist.
 
Followup Instructions:
___